US04275065
6-Chloro-3-hydroxy-2-phenylthiazolo-[2,3-b]benzothiazolium bromide
A 1 l. acetone solution of 10.25 g. (0.05 moles) 5-chloro-2-mercaptobenzothiazole and 10.75 g. (0.05 moles) α-bromophenylacetic acid containing 100 ml. glacial acetic acid and 30 ml. acetic anhydride is heated in an open flask until the volume reaches 300 ml. The precipitated solid, weighing 16 g. (80% yield) is collected and recrystallized from glacial acetic acid. The product melts at 225°-228° C.

reactant | acetone | CC(=O)C | C3H6O
reactant | 5-chloro-2-mercaptobenzothiazole | 0.05 moles | ClC=1C=CC2=C(N=C(S2)S)C1 | C7H4ClNS2
reactant | α-bromophenylacetic acid | 0.05 moles, 100 ml | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Chloro-3-hydroxy-2-phenylthiazolo-[2,3-b]benzothiazolium bromide | 80% yield | [Br-].ClC=1C=CC2=C([N+]3=C(S2)SC(=C3O)C3=CC=CC=C3)C1 | InChI=1S/C15H8ClNOS2.BrH/c16-10-6-7-12-11(8-10)17-14(18)13(20-15(17)19-12)9-4-2-1-3-5-9;/h1-8H;1H
